US08859549B2
4-(pyridin-4-ylthio)phthalazin-1(2H)-one
4-chlorophthalazin-1(2H)-one and pyridine-4-thiol were processed using a method similar to that described in Example 57A to afford the title compound. MS (APCI) M/Z 256 (M+H)+.

reactant | 4-chlorophthalazin-1(2H)-one | ClC1=NNC(C2=CC=CC=C12)=O | C8H5ClN2O
reactant | pyridine-4-thiol | N1=CC=C(C=C1)S | C5H5NS
product | 4-(pyridin-4-ylthio)phthalazin-1(2H)-one | N1=CC=C(C=C1)SC1=NNC(C2=CC=CC=C12)=O | C13H9N3OS
